US04886814
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-methyl-thiazol-4-yl)morpholine
Prepared by analogy to Example 13 by reaction of 2-hydroxy-2-(2-methyl-thiazol-4-yl)morpholine with 1-[4-(2-hydroxyethyoxy)phenyl]propan-2-one followed by purification on a silica gel column using methylene chloride as eluant.

reactant | 2-hydroxy-2-(2-methyl-thiazol-4-yl)morpholine | OC1(CNCCO1)C=1N=C(SC1)C | C8H12N2O2S
reactant | 1-[4-(2-hydroxyethyoxy)phenyl]propan-2-one | OCCOC1=CC=C(C=C1)CC(C)=O | C11H14O3
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-methyl-thiazol-4-yl)morpholine | OCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C | C19H26N2O3S
